US04393217
A 10.0 g. amount of 2-cyanoacetanilide in 25 ml. of N,N-dimethylformamide dimethylacetal is heated on a steam bath for 2-6 hours. The reaction mixture volatiles are removed in vacuo and the resultant solid is dissolved in dichloromethane. The solution is passed through a short column of hydrous magnesium silicate, then n-hexane is added to the effluent until crystallization is noted. After cooling, the product is collected by filtration to give 2-cyano-3-dimethylamino-acrylanilide as colorless plates, m.p. 162.5°-164° C.

reactant | 2-cyanoacetanilide | C(#N)CC(=O)NC1=CC=CC=C1 | C9H8N2O
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 2-cyano-3-dimethylamino-acrylanilide | C(#N)C(C(=O)NC1=CC=CC=C1)=CN(C)C | C12H13N3O
